US05637718
A solution of 1-(2-Methylpropyl)-4,4-dimethylpiperidine (13.0 g, 0.077 mol) and mercuric acetate (98.8 g, 0.31 mol, 4 molar equivalent) in 5% aqueous acetic acid (300 ml) was boiled for 2.5 hours. On cooling, the white solid (mercurous acetate) was filtered-off, and the filtrate was treated repeatedly with hydrogen sulphide gas (3×), each time the mixture was filtered through a celite pad, the final filtrate made basic to pH 10 with K2CO3. The aqueous layer was extracted with ether (3×100 ml), and the combined organic layers dried over anhydrous MgSO4, concentrated and distilled to give the product, 1-(2-methylpropyl)-4,4-dimethyl-1,4,5,6-tetrahydropyridine, 7.1 g (55%), b.p. 50°-53° C. (2 mmHg). 1HNMR (CDCl3) δ5.73 (IH, d), 4.05 (1H, d), 2.88 (2H, t), 2.55 (2H, d), 1.80 (1H, m), 1.55 (2H, t), 0.95 (6H, s), and 0.85 (6H, d).

reactant | 1-(2-Methylpropyl)-4,4-dimethylpiperidine | 0.077 mol, 13.0 g | CC(CN1CCC(CC1)(C)C)C | C11H23N
reactant | hydrogen sulphide | S | H2S
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 1-(2-methylpropyl)-4,4-dimethyl-1,4,5,6-tetrahydropyridine | CC(CN1C=CC(CC1)(C)C)C | C11H21N
